US07429579B2
b) 4-(4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-butyraldehyde
6-{5-[3-(5,5-Dimethyl-[1,3]dioxan-2-yl)-propylsulfanyl]-4-methyl-4H-[1,2,4]triazol-3-yl}-quinoline (0.51 g, 1.28 mmol) was heated in water (30 ml) and sulphuric acid (1.92 mmol) at 100° C. for 3 h. The mixture was cooled and basified with sodium carbonate. The aqueous mixture was extracted with dichloromethane (3×50 ml) and the combined organic portions were dried (Na2SO4), filtered and evaporated to give the title compound as a colourless oil (0.38 g, 95%).

reactant | 6-{5-[3-(5,5-Dimethyl-[1,3]dioxan-2-yl)-propylsulfanyl]-4-methyl-4H-[1,2,4]triazol-3-yl}-quinoline | 1.28 mmol, 0.51 g | CC1(COC(OC1)CCCSC=1N(C(=NN1)C=1C=C2C=CC=NC2=CC1)C)C | C21H26N4O2S
reactant | sulphuric acid | 1.92 mmol | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-(4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-butyraldehyde | 0.38 g, 95% | CN1C(=NN=C1C=1C=C2C=CC=NC2=CC1)SCCCC=O | C16H16N4OS
